US09427442B2
Intermediate S-5A: (E)-tert-Butyl 5,5,5-trifluoro-4-methylpent-2-enoate
A solution of tert-butyl 2-(dimethoxyphosphoryl)acetate (9.78 g, 43.6 mmol) in THF (10 mL) was slowly transferred to a suspension of NaH (60% dispersion in mineral oil) (1.903 g, 47.6 mmol) in THF (30 mL) at 0° C. under a nitrogen atmosphere. After the addition was complete, the reaction mixture was stirred at 0° C. for 10 min, and then warmed to room temperature. After being stirred for 30 min, the reaction mixture was cooled to 0° C. again, and a solution of 3,3,3-trifluoro-2-methylpropanal (5 g, 39.7 mmol) in THF (10 mL) was added, and the ice bath was removed. After 12 h at 25° C., the mixture was partitioned between water (60 mL) and EtOAc (60 mL). The aqueous layer was extracted with EtOAc (60 mL), and the combined organic layers were successively washed with water (60 mL) and brine. The resulting solution was dried over MgSO4, concentration under reduced pressure, and purified by silica gel flash chromatography (330 g column, 0% to 15% EtOAc in hexane over 20 min) to obtain Intermediate S-5A (3.61 g, 16.10 mmol, 40.6% yield). 1H NMR (400 MHz, chloroform-d) δ 6.77 (dd, J=15.8, 7.7 Hz, 1H), 5.95 (dd, J=15.7, 0.6 Hz, 1H), 3.12-2.93 (m, 1H), 1.56-1.47 (m, 9H), 1.37-1.27 (m, 3H).

reactant | tert-butyl 2-(dimethoxyphosphoryl)acetate | 43.6 mmol, 9.78 g | COP(=O)(OC)CC(=O)OC(C)(C)C | C8H17O5P
reactant | NaH | 47.6 mmol, 1.903 g | [H-].[Na+]
reactant | 3,3,3-trifluoro-2-methylpropanal | 39.7 mmol, 5 g | FC(C(C=O)C)(F)F | C4H5F3O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (E)-tert-Butyl 5,5,5-trifluoro-4-methylpent-2-enoate | 40.6% yield | FC(C(/C=C/C(=O)OC(C)(C)C)C)(F)F | C10H15F3O2
